US04792554
(3) 2,6-dimethyl-3-nitro-4-[(2-{4-diphenylmethyl-1-piperazinyl}ethyl)amino]pyridine trihydrochloride
In accordance with process variant (c), 10 g (0.08 mol) of 1-(2-chloroethyl)-4-diphenylmethylpiperazine, 13.4 g (0.08 mol) of 4-amino-2,6-dimethyl-3-nitropyridine and 10 g (0.1 mol) of triethylamine were dissolved in 300 ml of isopropanol in a 500 ml round-bottomed flask, and the solution was heated to boiling for 10 hours. It was then cooled to room temperature, and the precipitate was filtered off with suction. The latter was extracted by stirring with ethyl acetate, and the mixture was filtered and the filtrate was evaporated to dryness. The remaining residue was taken up in ethanol, and ethanolic HCl was added. The solution was evaporated to dryness in vacuo, and the residue was recrystallized from Isopropanol/diisopropyl ethyl (4:1; vol.).

reactant | 1-(2-chloroethyl)-4-diphenylmethylpiperazine | 0.08 mol, 10 g | ClCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H23ClN2
reactant | 4-amino-2,6-dimethyl-3-nitropyridine | 0.08 mol, 13.4 g | NC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C7H9N3O2
reactant | triethylamine | 0.1 mol, 10 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-3-nitro-4-[(2-{4-diphenylmethyl-1-piperazinyl}ethyl)amino]pyridine trihydrochloride | Cl.Cl.Cl.CC1=NC(=CC(=C1[N+](=O)[O-])NCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C26H31N5O2.3ClH/c1-20-19-24(25(31(32)33)21(2)28-20)27-13-14-29-15-17-30(18-16-29)26(22-9-5-3-6-10-22)23-11-7-4-8-12-23;;;/h3-12,19,26H,13-18H2,1-2H3,(H,27,28);3*1H
